US08034812B2
Production of N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)propaneamide
Using 6-iodoimidazo[1,2-b]pyridazin-2-amine (1.0 g, 3.85 mmol), N,N-dimethylacetamide (10 mL) and propionyl chloride (0.37 mL, 4.23 mmol) as starting materials and in the same manner as in Reference Example 5, the title compound (0.88 g, 72%) was obtained as a dark brown powder.

reactant | 6-iodoimidazo[1,2-b]pyridazin-2-amine | 3.85 mmol, 1.0 g | IC=1C=CC=2N(N1)C=C(N2)N | C6H5IN4
reactant | propionyl chloride | 4.23 mmol, 0.37 mL | C(CC)(=O)Cl | C3H5ClO
solvent | N,N-dimethylacetamide | 10 mL | CN(C(C)=O)C | C4H9NO
product | N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)propaneamide | 0.88 g, 72% | IC=1C=CC=2N(N1)C=C(N2)NC(CC)=O | C9H9IN4O
